US06958329B2
Preparation of 3-amino-8-bromo-1,5-dimethyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one
Preparation of 1-(2-amino-4-bromophenyl)ethanone Under an argon atmosphere a solution of 3-bromoaniline (31.3 g, 181.8 mmol) and acetonitrile (75 g, 1.818 mol) in anhydrous toluene (120 ml) was added dropwise over 2.5 hours to a stirred solution of boron trichloride (23.4 g, 200 mmol) in (200 ml) hexanes cooled in an ice bath. After the addition was completed, aluminum chloride (26.6 g, 200 mmol) was added portion wise over 30 minutes. The mixture was allowed to warm to ambient temperature and then heated at reflux for 16 hours with stirring. The reaction mixture was then cooled to 10° C. and 100 mL of a 3N HCl solution was added dropwise with continued stirring. After the addition was complete, the mixture was heated at reflux for 3.5 hours, then cooled to room temperature, and the layers separated. The aqueous layer was extracted with chloroform (3×250 ml). Organic layers were combined, dried over magnesium sulfate, filtered, and concentrated to give the title compound (9.58 g, 25%). 1H NMR (CDCl3, 300 MHz): δ 7.54 (d, 1H, J=8.8 Hz), 6.83 (d, 1H, J=1.9 Hz), 6.75 (dd, 1H, J=8.4, 1.8 Hz), 2.54 (s, 3H) ppm. Step 2: Preparation of benzyl 8-bromo -5-methyl-2-oxo-2,3-dihydro-1H-1,4-benzodiazepin-3-ylcarbamate Under an argon atmosphere 1H-1,2,3-benzotriazol-1-yl{[(benzyloxy)carbonyl]amino}acetic acid (6.71 g, 20.6 mmol) was suspended in anhydrous methylene chloride (92 ml) and cooled to 0° C. in an ice bath. Oxalyl chloride (2.61 g, 20.6 mmol), then N,N-dimethylformamide (38 ml) were added dropwise to the suspension. The reaction mixture was stirred at 0 ° C. in an ice bath for 30 minutes, at which point no further gas evolution was noted. Then a solution of 1-(2-amino-4-bromophenyl)ethanone (4.0 g, 18.7 mmol) and 4-methylmorpholine (2.84 g, 28.0 mmol) in anhydrous methylene chloride (60 ml) was added dropwise. The reaction mixture was allowed to warm to room temperature over 12 hours, then quenched with water (200 ml), and extracted with ethyl acetate (3×250 ml). The organic layers were combined, dried over magnesium sulfate, filtered and concentrated to give a semi-solid which was dissolved in tetrahydrofuran (120 ml) and methyl alcohol (35 ml). Ammonia gas was bubbled through this solution for 2.5 hours. The reaction was then concentrated to a viscous light brown oil. The oil was dissolved in acetic acid (120 ml) and ammonium acetate (4.3 g, 56.1 mmol) was added in one portion and stirred for 12 hours. The reaction mixture was diluted with water (100 ml) and then made basic (pH=10) with 25% sodium hydroxide, while stirring in an ice bath. The aqueous solution was then extracted with ethyl acetate (3×500 ml) and the organic layers combined, dried over magnesium sulfate, filtered and concentrated. The resulting residue was purified on silica gel, eluting with 40% ethyl acetate in hexanes to give the title compound (4 g, 53%). 1H NMR (CDCl3, 300 MHz): δ 9.90 (s-br, 1H), 7.42-7.31 (m, 6H), 7.12 (d, 1H, 1.5 Hz), 7.06-7.03 (m, 1H), 5.18-5.08 (m, 3H), 2.50 (s, 3H) ppm. Step 3: Preparation of benzyl 8-bromo-1,5-dimethyl-2-oxo-2,3-dihydro-1H-1,4-benzodiazepin-3-ylcarbamate The product of Step 2 (2.0 g, 4.98 mmol) was dissolved in anhydrous N,N-dimethylformamide (10 ml). To this solution was added potassium carbonate (1.72 g, 12.44 mmol) and iodomethane (0.847 g, 5.97 mmol), and the reaction mixture was sealed in a pressure flask and stirred for 12 hours at room temperature, then diluted with water and ethyl acetate (20/70 ml). The aqueous solution was then extracted with ethyl acetate (3×20 ml). The organic layers were combined, washed with water (1×100 ml), dried over magnesium sulfate, filtered and concentrated to give the title compound (1.58 g, 77.5%). 1H NMR (CDCl3, 300 MHz): δ 7.43-7.28 (m, 7H), 6.68 (d, 1H, J=8.1 Hz), 5.15-5.05 (m, 3H), 3.38 (s, 3H), 2.45 (d, 3H, 1.5 Hz) ppm. Step 4: Preparation of 3-amino-8-bromo-1,5-dimethyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one The product of Step 3 (0.831 g, 2.00 mmol) was dissolved in anhydrous anisole (16 ml) and then methanesulfonic acid (3.84 g, 40 mmol) was added in one portion. The reaction mixture was heated to 40° C. for 30 minutes with stirring, then cooled to 0° C. in an ice bath and made basic (pH=10) with concentrated ammonium hydroxide. The aqueous solution was then extracted with chloroform (3×50 ml) and the organic layers combined, dried over magnesium sulfate, filtered and concentrated to give the crude product. Purification on silica gel, eluting with 10% methyl alcohol in chloroform, providing the title compound as an XXXX (0.463 g, 82%). 1H NMR (CDCl3, 300 MHz): δ 7.32-7.23 (m, 3H), 4.12 (d, 1H, J=1.1 Hz), 3.27 (s, 3H), 2.30 (d, 3H, J=1.5 Hz) ppm.

reactant | benzyl 8-bromo -5-methyl-2-oxo-2,3-dihydro-1H-1,4-benzodiazepin-3-ylcarbamate | BrC1=CC2=C(C(=NC(C(N2)=O)NC(OCC2=CC=CC=C2)=O)C)C=C1 | C18H16BrN3O3
reactant | 1H-1,2,3-benzotriazol-1-yl{[(benzyloxy)carbonyl]amino}acetic acid | 20.6 mmol, 6.71 g | N1(N=NC2=C1C=CC=C2)C(C(=O)O)NC(=O)OCC2=CC=CC=C2 | C16H14N4O4
reactant | Oxalyl chloride | 20.6 mmol, 2.61 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(2-amino-4-bromophenyl)ethanone | 18.7 mmol, 4.0 g | NC1=C(C=CC(=C1)Br)C(C)=O | C8H8BrNO
reactant | 4-methylmorpholine | 28.0 mmol, 2.84 g | CN1CCOCC1 | C5H11NO
reactant | ammonium acetate | 56.1 mmol, 4.3 g | C(C)(=O)[O-].[NH4+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 92 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | methyl alcohol | 35 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 38 ml | CN(C=O)C | C3H7NO
product | 3-amino-8-bromo-1,5-dimethyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 4 g, 53% | NC1C(N(C2=C(C(=N1)C)C=CC(=C2)Br)C)=O | C11H12BrN3O
